US09388189B2
(S)-3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)phenyl methanesulfonate
(S)-3-(Methylsulfonamido)-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate (169 mg, 0.19 mmol) was treated with trifluoroacetic acid (4.7 ml, 61 mmol) and a solution of ammonia (7N in methanol, 4.0 ml, 17 mmol) according to the method described in Example 27 to give 102 mg (83% yield) of the title compound. Purity 99%.

reactant | (S)-3-(Methylsulfonamido)-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate | 0.19 mmol, 169 mg | CS(=O)(=O)OC1=CC(=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C35H42N8O7S2Si
reactant | trifluoroacetic acid | 61 mmol, 4.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 17 mmol, 7N, 4.0 ml | N | H3N
product | (S)-3-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-5-(methylsulfonamido)phenyl methanesulfonate | 102 mg, 83% yield | CS(=O)(=O)OC1=CC(=CC(=C1)NS(=O)(=O)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C29H28N8O6S2
